US05158971
1-Hydroxy-1-(5-phenylthiothien-2-ylmethyl)urea
To a solution of N-(5-phenylthiothien-2-ylmethyl)-hydroxylamine (2.5 g) in dioxan (50 ml) at room temperature under nitrogen, was added trimethylsilylisocyanate (2.42 g) and the resulting solution stirred for 1 hour, quenched with saturated aqueous ammonium chloride, extracted with ether (2×100 ml), dried over MgSO4 and evaporated under reduced pressure to give a yellow oil. The oil was flash chromatographed on a Sorbsil C60-40/60H column using ether to give a white solid, recrystallised from ether/petroleum ether to give a white crystalline solid m.p. 127°-129° C.

reactant | N-(5-phenylthiothien-2-ylmethyl)-hydroxylamine | 2.5 g | C1(=CC=CC=C1)SC1=CC=C(S1)CNO | C11H11NOS2
reactant | trimethylsilylisocyanate | 2.42 g | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 1-Hydroxy-1-(5-phenylthiothien-2-ylmethyl)urea | ON(C(=O)N)CC=1SC(=CC1)SC1=CC=CC=C1 | C12H12N2O2S2
